US07528120B2
To a solution of phosphoric acid di-tert-butyl ester (S)-4-{2-[4-(6-fluoro-hexyloxy)-phenyl]-ethyl}-2-methyl-4,5-dihydro-oxazol-4-ylmethyl ester (33 mg, 0.050 mmol) in ethanol (2 ml) is added conc. HCl (2 ml). The reaction mixture is stirred at 85° C. for 2 hours, then concentrated to dryness. The residue is re-dissolved in ethyl acetate and precipitated with hexanes. The solid is filtered off, washed with dry ether and dried under vacuum to afford phosphoric acid mono-{(S)-2-amino-4-[4-(6-fluoro-hexyloxy)-phenyl]-2-hydroxymethyl-butyl}ester as a colorless powder.

reactant | phosphoric acid di-tert-butyl ester (S)-4-{2-[4-(6-fluoro-hexyloxy)-phenyl]-ethyl}-2-methyl-4,5-dihydro-oxazol-4-ylmethyl ester | 0.050 mmol, 33 mg | FCCCCCCOC1=CC=C(C=C1)CC[C@@]1(N=C(OC1)C)COP(OC(C)(C)C)(OC(C)(C)C)=O | C27H45FNO6P
reactant | HCl | 2 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | phosphoric acid mono-{(S)-2-amino-4-[4-(6-fluoro-hexyloxy)-phenyl]-2-hydroxymethyl-butyl}ester | N[C@@](COP(O)(O)=O)(CCC1=CC=C(C=C1)OCCCCCCF)CO | C17H29FNO6P
